US09403835B2
Step 3: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-((2R,4R)-2-trifluoromethyl-piperidin-4-yloxy)-phenyl]-methanone
A 4M solution of HCl in 1,4-dioxane (0.47 mL; 1.87 mmol; 10 eq.) was added to a solution of trans-4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-2-trifluoromethyl-piperidine-1-carboxylic acid tert-butyl ester (115 mg; 0.19 mmol; 1 eq.) in 1,4-dioxane (5 mL) and the reaction mixture was stirred at room temperature for 16 hours. 5M NaOH was added and the mixture extracted with DCM (3×). The combined organics were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in ACN/water and freeze-dried to afford the title compound (34 mg, 35%) as a yellow solid. 1H NMR (CDCl3) δ 7.45-7.29 (m, 1H), 6.91-6.74 (m, 1H), 6.74-6.60 (m, 1H), 5.12-4.91 (m, 2H), 4.84-4.53 (m, 3H), 3.56-3.29 (m, 1H), 3.07-2.79 (m, 5H), 2.78-2.55 (m, 3H), 2.22-1.99 (m, 1H), 1.99-1.86 (m, 1H), 1.86-1.56 (m, 3H). HPLC (max plot) 92.5%, Rt 3.10 min. UPLC/MS: (MS+) 512.3 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | trans-4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-2-trifluoromethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.19 mmol, 115 mg, 1 eq. | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](CC1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1)C(F)(F)F | C28H30ClF4N5O4
reactant | NaOH | 5M | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1.87 mmol, 0.47 mL, 10 eq. | O1CCOCC1 | C4H8O2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-((2R,4R)-2-trifluoromethyl-piperidin-4-yloxy)-phenyl]-methanone | 34 mg, 35% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=C(C=C3)F)O[C@H]3C[C@@H](NCC3)C(F)(F)F)C | C23H22ClF4N5O2
